US05932601
A mixture of 3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnamaldehyde (5.6 g), palladium-carbon (5%, 0.5 g) and tetrahydrofuran (THF) (160 ml) was subjected to catalytic hydrogenation at room temperature under 1 atmospheric pressure. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The concentrate was subjected to column chromatography on silica gel. From the fraction eluted with ethyl acetate -hexane (1:1), was obtained 3-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propionaldehyde, which was recrystallized from ethyl acetate-hexane to give colorless needles, m.p.80-81° C.

reactant | 3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnamaldehyde | 5.6 g | COC=1C=C(C=CC=O)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C21H19NO4
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | 3-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propionaldehyde | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CCC=O | C21H21NO4
